US06225316B1
d) N-(3,5-Bis-trifluoromethyl-benzyl)-N-methyl-3-o-tolyl-isonicotinamide
To a solution of 226 mg (1 mmol) N-methyl-3-o-tolyl-isonicotinamide in 10 ml tetrahydrofuran were added dropwise 1.3 ml (1.3 mmol) 1M potassium hexamethyldisilazide solution in tetrahydrofuran at room temperature. The white suspension was stirred for 30 min at room temperature and 0.18 ml (1 mmol) 3,5-bis(trifluoromethyl)benzyl bromide were added at the same temperature. The light brown suspension was stirred for 1 h and water was added. The aqueous layer was separated and washed with ethyl acetate. The combined organic layers were washed twice with brine, dried (magnesium sulfate) and evaporated. Chromatography of the residue afforded 440 mg (97%) of the title compound as a light brown oil.

reactant | N-methyl-3-o-tolyl-isonicotinamide | 1 mmol, 226 mg | CNC(C1=C(C=NC=C1)C1=C(C=CC=C1)C)=O | C14H14N2O
reactant | potassium hexamethyldisilazide | 1.3 mmol, 1M, 1.3 ml | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 1 mmol, 0.18 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(3,5-Bis-trifluoromethyl-benzyl)-N-methyl-3-o-tolyl-isonicotinamide | 440 mg, 97% | FC(C=1C=C(CN(C(C2=C(C=NC=C2)C2=C(C=CC=C2)C)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H18F6N2O
